US07601840B2
Tryptophan A (1.0 g, 5.0 mmol) and 3-methoxybenzaldehyde (670 μL, 5.5 mmol) are suspended/dissolved in acetonitrile (100 mL) and concentrated sulfuric acid (100 μL) is added. The reaction is heated to reflux until all the aldehyde was consumed (overnight). The solvent was removed in vacuo and the residue was dissolved in 5 mL of ethanol. The product was precipitated out with ether, filtered, and washed with 10 mL of ether. The desired β-carboline product/intermediate B (1-(3-Methoxy-phenyl)-2,3,4,9-tetrahydro-1H-β-carboline-3-carboxylic acid) is isolated as a beige solid (1.2 g, 76%). LC/MS RT=2.33 min. M/Z+323, 100%.

reactant | Tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | 3-methoxybenzaldehyde | 5.5 mmol, 670 μL | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | sulfuric acid | 100 μL | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | β-carboline | C1=NC=CC=2C3=CC=CC=C3NC12 | C11H8N2
